US08975411B2
Synthesis Of tert-butyl imino{[(mesityloxy)acetyl]amino}methylcarbamate
Mesityloxyacetic acid (89.3 g; 460 mmol), diisopropylethylamine (297.1 g; 2.3 mol), tert-butyl amino(imino)methylcarbamate (76.8 g; 480 mmol), and 1-hydroxybenzotriazole monohydrate (62.4 g; 460 mmol) were dissolved in N,N-dimethylformamide (1.0 L), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (183.1 g; 460 mmol) was added thereto, and the mixture was stirred for 25 hours at room temperature. The precipitated crystals were collected by filtration, washed with ethyl acetate and then dried to give 135.2 g of the title compound (yield 88%).

reactant | Mesityloxyacetic acid | 460 mmol, 89.3 g | C1(=C(C(=CC(=C1)C)C)OCC(=O)O)C | C11H14O3
reactant | diisopropylethylamine | 2.3 mol, 297.1 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl amino(imino)methylcarbamate | 480 mmol, 76.8 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 460 mmol, 62.4 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 460 mmol, 183.1 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1.0 L | CN(C=O)C | C3H7NO
product | tert-butyl imino{[(mesityloxy)acetyl]amino}methylcarbamate | 135.2 g, yield 88% | N=C(NC(COC1=C(C=C(C=C1C)C)C)=O)NC(OC(C)(C)C)=O | C17H25N3O4
